### PR TITLE
chore: Add guard messages to automata proof, remove dependence on sorry axiom

### PR DESCRIPTION
**Pull request by AtticusKuhn**
This PR add `guard_msgs` to the automata file. This ensures that none of the test cases accidentally depend on the sorry axiom, thus resulting in unsound proofs.

Any proofs produced by the automata tactic depends on the axioms
[propext, Classical.choice, Lean.ofReduceBool, Quot.sound]
but not on the sorry axiom.

This PR was particularly important to @bollu .

### CODE REVIEW

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 1]
```diff
@@ -459,6 +471,30 @@ theorem ofBitVec_sub : ofBitVec (x - y) ≈ʷ (ofBitVec x) - (ofBitVec y)  := by
...
+  have lemma_1 (i : Nat) (le : i < w) : a.addAux (@ofBitVec w 1) i = a.incrAux i := by
+    induction' i with _ ih
+    · simp [incrAux,addAux, BitVec.adcb, BitVec.msb, BitVec.getMsb, ofBitVec, le]
+    · simp only [addAux, incrAux]
+      rw [ih (by omega)]
+      simp [BitVec.adcb, Bool.atLeastTwo, ofBitVec, le]
+  intros i le
+  simp only [incr, HAdd.hAdd, Add.add, add, lemma_1 i le]
+
+theorem ofBitVec_incr (n : Nat) : ofBitVec (BitVec.ofNat w n.succ) ≈ʷ  (ofBitVec (BitVec.ofNat w n)).incr := by
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/BitStream.lean]:
```suggestion
theorem ofBitVec_incr {n : Nat} : ofBitVec (BitVec.ofNat w n.succ) ≈ʷ (ofBitVec (BitVec.ofNat w n)).incr := by
```

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 2]
```diff
@@ -459,6 +471,30 @@ theorem ofBitVec_sub : ofBitVec (x - y) ≈ʷ (ofBitVec x) - (ofBitVec y)  := by
...
+theorem incr_add : a + (@ofBitVec w 1) ≈ʷ a.incr := by
+  have lemma_1 (i : Nat) (le : i < w) : a.addAux (@ofBitVec w 1) i = a.incrAux i := by
+    induction' i with _ ih
+    · simp [incrAux,addAux, BitVec.adcb, BitVec.msb, BitVec.getMsb, ofBitVec, le]
+    · simp only [addAux, incrAux]
+      rw [ih (by omega)]
+      simp [BitVec.adcb, Bool.atLeastTwo, ofBitVec, le]
+  intros i le
+  simp only [incr, HAdd.hAdd, Add.add, add, lemma_1 i le]
+
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/BitStream.lean]:
```suggestion
theorem incr_add : a + (@ofBitVec w 1) ≈ʷ a.incr := by
  have h {i : Nat} (le : i < w) : a.addAux (@ofBitVec w 1) i = a.incrAux i := by
    induction' i with _ ih
    · simp [incrAux,addAux, BitVec.adcb, BitVec.msb, BitVec.getMsb, ofBitVec, le]
    · simp only [addAux, incrAux]
      rw [ih (by omega)]
      simp [BitVec.adcb, Bool.atLeastTwo, ofBitVec, le]
  intros i le
  simp only [incr, HAdd.hAdd, Add.add, add, h le]

```

File: SSA/Experimental/Bits/Fast/BitStream.lean [hunk 3]
```diff
@@ -459,6 +471,30 @@ theorem ofBitVec_sub : ofBitVec (x - y) ≈ʷ (ofBitVec x) - (ofBitVec y)  := by
...
+  _ ≈ʷ ofBitVec (BitVec.ofNat w n) + ofBitVec 1 := ofBitVec_add
+  _ ≈ʷ (ofBitVec (BitVec.ofNat w n)).incr := by intros i il ; rw [incr_add] ; exact il
+
+theorem incr_congr (h  : a ≈ʷ b) : a.incr ≈ʷ b.incr := by
+  intros i le
+  have incr_congr_lemma : a.incrAux i = b.incrAux i := by
+    induction' i with n ih
+    <;> simp only [incrAux, h _ le]
+    simp [ih (by omega)]
+  simp [incr, incr_congr_lemma]
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/BitStream.lean]:
```suggestion
theorem incr_congr (h : a ≈ʷ b) : a.incr ≈ʷ b.incr := by
  intros i le
  have incr_congr_lemma : a.incrAux i = b.incrAux i := by
    induction' i with n ih
    <;> simp only [incrAux, h _ le]
    simp [ih (by omega)]
  simp [incr, incr_congr_lemma]
```

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 4]
```diff
@@ -67,55 +67,19 @@ def termNat (n : Nat) : _root_.Term :=
   | 0 => Term.zero
   | x + 1 => Term.incr (termNat x)
 
-def incrBit (w n : Nat) :  BitStream.ofBitVec (BitVec.ofNat w n.succ) = (BitStream.ofBitVec (BitVec.ofNat w n)).incr := by
-  sorry
+def termNatCorrect (f : Nat → BitStream) (w n : Nat) :  BitStream.EqualUpTo w (BitStream.ofBitVec (BitVec.ofNat w n))  ((termNat n).eval f) := by
+  induction' n with n ih
+  · intros i _
+    simp only [Term.eval ,termNat, BitStream.zero_eq, Bool.ite_eq_false_distrib, BitVec.getLsb_zero, BitVec.msb_zero, ite_self]
+  · simp only [Term.eval ,termNat, ← Nat.succ_eq_add_one ]
```
Comment (tobiasgrosser) [inline SSA/Experimental/Bits/Fast/Tactic.lean]:
```suggestion
def termNatCorrect (f : Nat → BitStream) (w n : Nat) : BitStream.EqualUpTo w (BitStream.ofBitVec (BitVec.ofNat w n)) ((termNat n).eval f) := by
  induction' n with n ih
  · intros i _
    simp only [Term.eval ,termNat, BitStream.zero_eq, Bool.ite_eq_false_distrib, BitVec.getLsb_zero, BitVec.msb_zero, ite_self]
  · simp only [Term.eval ,termNat, ← Nat.succ_eq_add_one]
```

**Review by tobiasgrosser — APPROVED** [review]
This LGTM. Thank you for your contribution.

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 5]
```diff
@@ -67,60 +67,24 @@ def termNat (n : Nat) : _root_.Term :=
...
-def termNatCorrect (f : Nat → BitStream) (w n : Nat) :  BitStream.ofBitVec (BitVec.ofNat w n) = (termNat n).eval f := by
-  induction n
-  ext i
-  simp only [Term.eval ,termNat, BitStream.zero_eq, Bool.ite_eq_false_distrib, BitVec.getLsb_zero, BitVec.msb_zero, ite_self]
-  rename_i n ff
-  simp only [Term.eval ,termNat, ← ff]
-  exact incrBit w n
 
+def quoteThm (qMapIndexToFVar : Q(Nat → BitStream)) (w : Q(Nat)) (nat: Nat) :
+  Q(@BitStream.EqualUpTo $w (BitStream.ofBitVec (@BitVec.ofNat $w $nat)) (@Term.eval (termNat $nat) $qMapIndexToFVar)) := q(termNat_correct $qMapIndexToFVar $w $nat)
```
Comment (bollu) [inline SSA/Experimental/Bits/Fast/Tactic.lean:81]: Quick note: We should eventually un-QQ our code, to be in line with Lean core standards.

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 6]
```diff
@@ -129,6 +93,21 @@ partial def first_rep (w : Q(Nat)) (e : Q( BitStream)) : SimpM (Σ (x : Q(BitStr
...
+      let contextLength := context.getFVarIds.size - 1
+      let lastFVar  ← context.getAt? contextLength
+      let qMapIndexToFVar : Q(Nat → BitStream) := .fvar lastFVar.fvarId
+      match nat with
+        | .some nat =>
+          return ⟨
+            q(Term.eval (termNat $nat) $qMapIndexToFVar),
+            quoteThm qMapIndexToFVar length nat
+          ⟩
+        | .none => throwError m!"The bv_automata tactic expects {repr b} to be of the form of a nat literal, but it is not"
```
Comment (bollu) [inline SSA/Experimental/Bits/Fast/Tactic.lean]:
```suggestion
      let ofNat := q(OfNat.ofNat $b)
      let .some nat := ofNat.nat? |  throwError m!"The bv_automata tactic expects {repr b} to be of the form of a nat literal, but it is not"
      let length : Q(Nat) := w
      let context  ← getLCtx
      let contextLength := context.getFVarIds.size - 1
      let lastFVar  ← context.getAt? contextLength
      let qMapIndexToFVar : Q(Nat → BitStream) := .fvar lastFVar.fvarId
      return ⟨
            q(Term.eval (termNat $nat) $qMapIndexToFVar),
            quoteThm qMapIndexToFVar length nat
          ⟩
```

Comment (bollu) [reply SSA/Experimental/Bits/Fast/Tactic.lean]: Use the nicer pattern matching syntax to avoid control flow :)

File: SSA/Experimental/Bits/Fast/Tactic.lean (hunk 5 above)
Comment (AtticusKuhn) [reply SSA/Experimental/Bits/Fast/Tactic.lean:81]: You are probably correct, but is there any alternative to writing

```lean
.app (.app (.app (.app (.....))))
```
?

File: SSA/Experimental/Bits/Fast/Tactic.lean [hunk 7]
```diff
@@ -141,6 +120,27 @@ partial def first_rep (w : Q(Nat)) (e : Q( BitStream)) : SimpM (Σ (x : Q(BitStr
         q($anext + $bnext),
         .app (.app (.app (.app (.app (.app (.app (.const ``BitStream.add_congr []) w) a) anext) b) bnext) aproof) bproof
       ⟩
+    | ~q(@HAnd.hAnd BitStream BitStream BitStream _ $a $b) => do
+      let ⟨ anext, aproof ⟩ ← first_rep w a
+      let ⟨ bnext, bproof ⟩ ← first_rep w b
+      return ⟨
+        q($anext &&& $bnext),
+        .app (.app (.app (.app (.app (.app (.app (.const ``BitStream.and_congr []) w) a) anext) b) bnext) aproof) bproof
```
Comment (bollu) [inline SSA/Experimental/Bits/Fast/Tactic.lean:126]: Not blocking this, but surely this can be simplified with the `mkAppM` and friends?

**Review by bollu — APPROVED** [review]
LGTM!
